US07405305B2
c) 4-(7-Methoxymethoxymethyl-indol-1-yl)piperidine-1-carboxylic acid tert-butyl ester
Dissolve 4-(7-hydroxymethylindol-1-yl)piperidine-1-carboxylic acid tert-butyl ester (0.25 g, 0.76 mmol) in 5 mL of tetrahydrofuran and add sodium hydride (36 mg, 1.5 mmol) at room temperature. After 40 minutes, add methoxymethyl chloride (0.11 mL, 1.5 mmol) and stir the mixture for 4 hours. Concentrate the reaction and subject it to flash chromatography using 5:1 hexanes:ethyl acetate to give 0.23 g product. FAB MS 374.

reactant | 4-(7-hydroxymethylindol-1-yl)piperidine-1-carboxylic acid tert-butyl ester | 0.76 mmol, 0.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=CC2=CC=CC(=C12)CO | C19H26N2O3
reactant | sodium hydride | 1.5 mmol, 36 mg | [H-].[Na+]
reactant | methoxymethyl chloride | 1.5 mmol, 0.11 mL | COCCl | C2H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(7-Methoxymethoxymethyl-indol-1-yl)piperidine-1-carboxylic acid tert-butyl ester | 0.23 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=CC2=CC=CC(=C12)COCOC | C21H30N2O4
